US04492692
2-Fluoro-4-formyl-1-triphenylmethylimidazole and acetyl triphenyl phosphorane were reacted in toluene at 100° over 18 hours to give E-2-fluoro-4-(3-oxobut-1-enyl)-1-triphenylmethylimidazole. This was hydrogenated in a mixture of EtOAC and EtOH, using 5% w/w palladium on carbon as catalyst, to give 2-fluoro-4-(3-oxobutyl)-1-triphenylmethylimidazole. This was treated in EtOH with O-methylhydroxylamine hydrochloride and pyridine. Evaporation of solvent and trituration with water gave 2-fluoro-4-(3-methoxyiminobutyl)-1-triphenylmethylimidazole as a mixture of isomers, the major Z-isomer having the following n.m.r. spectrum in CDCl3 : 1.84 (s, 3H); 2.4-2.7 (m, 4H); 3.86 (s, 3H); 6.37 (s, 1H); 7.1-7.4 (m, 15H).

reactant | 2-Fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
reactant | acetyl triphenyl phosphorane | C(C)(=O)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | E-2-fluoro-4-(3-oxobut-1-enyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)\C=C\C(C)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21FN2O
